US05262086
1) Synthesis of (R)-(+)-4-(1,1,1-trifluoro-2-octyloxycarbonyl)-4'-benzyloxybiphenyl
To a solution of 4-benzyloxybiphenyl-4'-carboxylic acid chloride (1.23 g) in methylene chloride (10 ml) was added by little and little under ice-cooling a solution of (R)-(+)-1,1,1-trifluoro-2-octanol (0.96 g) ([α]D22.5 =+20.1, optical purity 96.3%ee), dimethyl-aminopyridine (0.55 g) and triethylamine (0.48 g) in methylene chloride (20 ml). The mixture was left to stand over-night at room temperature in order to complete the reaction before the mixture obtained was poured in ice-water.

reactant | 4-benzyloxybiphenyl-4'-carboxylic acid chloride | 1.23 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C20H15ClO2
reactant | (R)-(+)-1,1,1-trifluoro-2-octanol | 0.96 g | FC([C@@H](CCCCCC)O)(F)F | C8H15F3O
reactant | dimethyl-aminopyridine | 0.55 g | CC1=C(C(=NC=C1)N)C | C7H10N2
reactant | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (R)-(+)-4-(1,1,1-trifluoro-2-octyloxycarbonyl)-4'-benzyloxybiphenyl | FC([C@@H](CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)(F)F | C28H29F3O3
